US05175158
11-[[2-[2-[2-(Diethylamino)ethoxy]ethyl]-1-piperidinyl]-acetyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin- 6-one
Prepared analogously to Example 1 from 11-(chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6- one and 2-[2-[2-(diethylamino)ethoxy]ethyl]piperidine (Bp.0.4 mmHg 95°-99° C.) in a yield of 44% of theory.

reactant | 11-(chloroacetyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6- one | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C14H10ClN3O2
reactant | 2-[2-[2-(diethylamino)ethoxy]ethyl]piperidine | C(C)N(CCOCCC1NCCCC1)CC | C13H28N2O
product | 11-[[2-[2-[2-(Diethylamino)ethoxy]ethyl]-1-piperidinyl]-acetyl]-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin- 6-one | yield of 44% | C(C)N(CCOCCC1N(CCCC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)CC | C27H37N5O3
